US06291685B1
1-(2-Thienyl)allyl Acetate
A 1.514-necked glass flask equipped with a mechanical stirrer, a thermometer and an argon inlet was charged with 112.2 g of 2-thiophenecarbaldehyde (1.00 mol) and 100 ml of THF and to the resulting solution was added dropwise at −20° C. within 1.2 h 650 ml of vinylmagnesium chloride 1.7 M solution in THF. The temperature during the addition was kept between −20 and −25° C. with aid of an acetone/dry ice bath, then increased to 0° C. during 35 min and kept at this temperature for 20 min. To the resulting brown suspension was added at ca. 0° within 40 min 132.7 g of acetic anhydride (1.30 mol). The cooling bath was removed and after stirring for 1 h 400 ml of deionized water was added at 10-15° C. within 20 min. The biphasic yellow-brown mixture was stirred for an additional 1 h at room temperature and transferred to a separatory finnel with aid of 500 ml of hexane. The brown aqueous phase was separated and extracted with 400 ml of hexane. The combined organic phases were washed with 3×200 ml deionized water, dried (Na2SO4, 15 min stirring) and rotatory evaporated (Tbath35°, 12 mbar, 1 h). Material of this quality is defined as “crude” and is also suitable for cyclocarbonylation (see Example 2B). The orange-brown oil (199.7 g) was distilled in an apparatus consisting of a 500-ml two-necked round-bottomed flask, a distillation head with water-cooling and a fraction sampler. A forerun containing low-boiling components (yellowish oil) was collected at Thead between room temperature and 55° C. and 0.5-0.6 mbar, the main fraction was collected at Thead of 59-62° C. (Tpot63-67° C.) and 0.4 mbar. Yield: 161.53 g (88.6%) of 1-(2-thienyl)allyl acetate as a slightly yellow oil.

reactant | 2-thiophenecarbaldehyde | 1.00 mol, 112.2 g | S1C(=CC=C1)C=O | C5H4OS
reactant | vinylmagnesium chloride | 1.7 M, 650 ml | C(=C)[Mg]Cl
reactant | acetic anhydride | 1.30 mol, 132.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(2-Thienyl)allyl Acetate | C(C)(=O)OC(C=C)C=1SC=CC1 | C9H10O2S
